US08049015B2
N-Benzyl-3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzamide and bis(pinacolato)diboron were reacted as described in Example 1, Step 8 to provide N-Benzyl-3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide.

reactant | N-Benzyl-3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzamide | C(C1=CC=CC=C1)NC(C1=CC(=C(C=C1)Br)CN(C(=O)C1CC1)CC1=CC=CC=C1)=O | C26H25BrN2O2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | N-Benzyl-3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | C(C1=CC=CC=C1)NC(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)CN(C(=O)C1CC1)CC1=CC=CC=C1)=O | C32H37BN2O4
